data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1662,1834,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,13.8658291892298,-18.345265137199537
498,544,[CH3:12][NH:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([CH3:20])[C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:19]([CH3:20])([C:21]#[N:22])[NH:18][C:16]3([C:14]([NH:13][CH3:12])=[O:15])[CH3:17],water,298.15,9.36804537666839,-46.7551450721454
738,800,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[NH+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[NH:19][N:20]3[C:21]([CH3:22])=[O:23],water,298.15,16.671339993040828,-34.226153669470605
4325,4946,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,16.752083725094387,-28.93417868018912
4387,5008,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([O+:10]=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21]([CH3:22])=[O:23]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:21]([CH3:22])=[O:23])[O:10][C:11]1([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,17.555696959583155,-38.77478538223721
4690,5346,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:11]#[N:10])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:13]=[C:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,17.858546387066887,-31.33005245252853
2442,2710,[CH3:12][O:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31].[Cl:1][C:2]([Cl:3])=[C:4]([Cl:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[Cl:1][C:2]1([Cl:3])[C:4]([Cl:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:29]([CH3:30])=[O:31])[NH:17][C:18]1([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,44.633766218833934,6.746390487305873
46,55,[CH2-:12][N+:13]#[C:14][CH3:15].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:14]([CH3:15])=[N:13][CH2:12]2,water,298.15,6.415957409353537,-60.43166391533752
2904,3227,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[CH:7]=[NH+:8][O-:9]>>[CH2:1]1[CH2:2][O:9][NH:8][CH:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,24.692571105975407,-11.72096454821676
63,74,[CH3:10][N-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:13]([C:14]#[N:15])([C:16]#[N:17])[NH:12][N:11]3[CH3:10],water,298.15,19.572652101984943,-22.646724202361995
613,673,[CH3:18][N-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[N:19]([CH3:18])[N:20]=[C:21]2[C:22]#[N:23],water,298.15,19.090380376146094,-50.267671603230106
2951,3294,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[CH:7]=[NH+:8][N-:9][C:10]([CH3:11])=[O:12]>>[CH2:1]1[CH2:2][N:9]([C:10]([CH3:11])=[O:12])[NH:8][CH:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,26.1329760831472,-23.205608136554407
4696,5353,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]#[N+:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]=[C:12]2[CH3:11],water,298.15,14.66729126851299,-21.55247439213224
